US04362728
A mixture of 3-[3-(2,2,2-trifluoroethyl)-thioureido]-1-(2-cyanoethyl)pyrazole (2.8 g.), yellow mercuric oxide (4.0 g.), methanol (100 ml.) and saturated ethanolic ammonia solution (10 ml.) was stirred at room temperature for 2 hours and then filtered. The filtrate was evaporated to dryness and the residue partitioned between ether and water. The ether phase was dried and evaporated to give 3-[2-(2,2,2-trifluoroethyl)guanidino]-1-(2-cyanoethyl)pyrazole characterised as the hydrogen maleate, m.p. 141°-142° after recrystallisation from acetone.

reactant | 3-[3-(2,2,2-trifluoroethyl)-thioureido]-1-(2-cyanoethyl)pyrazole | 2.8 g | FC(CNC(NC1=NN(C=C1)CCC#N)=S)(F)F | C9H10F3N5S
reactant | ammonia | 10 ml | N | H3N
solvent | methanol | 100 ml | CO | CH4O
product | 3-[2-(2,2,2-trifluoroethyl)guanidino]-1-(2-cyanoethyl)pyrazole | FC(CN=C(NC1=NN(C=C1)CCC#N)N)(F)F | C9H11F3N6
